US07709471B2
2-amino-1,3-oxazole-5-carboxylic acid
Ethyl2-aminooxazole-4-carboxylate (Apollo Scientific; 1.175 g, 7.50 mmol) was dissolved in THF (15 mL) and water (8 mL). Lithium hydroxide monohydrate (1.58 g, 37.52 mmol) was added and the mixture stirred overnight at room temperature. The mixture was neutralised with 2N HCl(aqu) and concentrated. The residue was suspended in water and filtered and the solid collected dissolved in 2N NaOH(aqu), filtered and then acidified with acetic acid to approximately pH4. The mixture was allowed to stand in an ice bath for 10 minutes and then filtered. The solid was dried on the filter and then in a dessicator overnight to give the title compound a s a yellow solid (194 mg, 20%)

reactant | Ethyl2-aminooxazole-4-carboxylate | 7.50 mmol, 1.175 g | C(C)OC(=O)C=1N=C(OC1)N | C6H8N2O3
reactant | Lithium hydroxide monohydrate | 37.52 mmol, 1.58 g | O.[OH-].[Li+]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 8 mL | O | H2O
product | 2-amino-1,3-oxazole-5-carboxylic acid | NC=1OC(=CN1)C(=O)O | C4H4N2O3
